US05614633
A mixture of 0.09 g of 2,2-bisfluoromethyl-3,4-dihydro-6-nitro-2H-1,3-benzoxazin-4-one, 0.18 g of phosphorus pentachloride and 1 ml of phosphorus oxychloride was stirred at room temperature for 20 minutes and the mixture was stirred at 40°-60° C. for 3 hours. The solvent was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, CH2Cl2) to obtain 0.10 g of 4-chloro-2,2-bisfluoromethyl-6-nitro-2H-1,3-benzoxazine represented by the following formula having a melting point of 75°-77° C.

reactant | 2,2-bisfluoromethyl-3,4-dihydro-6-nitro-2H-1,3-benzoxazin-4-one | 0.09 g | FCC1(OC2=C(C(N1)=O)C=C(C=C2)[N+](=O)[O-])CF | C10H8F2N2O4
reactant | phosphorus pentachloride | 0.18 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2,2-bisfluoromethyl-6-nitro-2H-1,3-benzoxazine | 0.10 g | ClC1=NC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C10H7ClF2N2O3
